US07799773B2
1,1-Dimethylethyl 7-hydroxy-8-iodo-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (D41)
A solution of 7-hydroxy-1,2,4,5-tetrahydro-3H-benzo[d]azepine-3-carboxylic acid tert-butyl ester (PCT Int. Appl. (2002), WO 02/40471) (5.2 g, 20 mmol) in 33% methylamine in ethanol (30 ml) was stirred at 0° C. A solution of sodium iodide (4.6 g, 30 mmol) and iodine (5.2 g, 20 mmol) in water (30 ml) was added below the surface of the reaction mixture. After stirring at 0° C. for 1 hour the mixture was concentrated in vacuo. The residue was diluted with ethyl acetate and water. The organic layer was separated, washed with water and brine. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo to afford the title compound (D41); (7.0 g, 90%), 1H NMR (d6-DMSO) 10.0 (1H, br s), 7.41 (1H, s), 6.65 (1H, s), 3.40 (4H, m), 2.70 (4H, m), 1.40 (9H, s).

reactant | 7-hydroxy-1,2,4,5-tetrahydro-3H-benzo[d]azepine-3-carboxylic acid tert-butyl ester | 20 mmol, 5.2 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=C(C=C2)O | C15H21NO3
reactant | sodium iodide | 30 mmol, 4.6 g | [I-].[Na+]
reactant | iodine | 20 mmol, 5.2 g | II | I2
solvent | methylamine | CN | CH5N
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 1,1-Dimethylethyl 7-hydroxy-8-iodo-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | OC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1I | C15H20INO3
